US04555521
By the method of E. Schwenk and D. Papa, J. A. C. S. 70, 3626 (1948), incorporated herein by reference, 86.8 g (0.509 mole) of p-chlorophenylacetic acid was treated with 100 ml of thionyl chloride. Subsequent reaction with 83.2 g (0.52 mole) of bromine followed by 100 ml of ethanol produced 78.9 g of ethyl alphabromo-(4-chlorophenyl)acetate as an oil.

reactant | p-chlorophenylacetic acid | 0.509 mole, 86.8 g | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | thionyl chloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
reactant | bromine | 0.52 mole, 83.2 g | BrBr | Br2
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl alphabromo-(4-chlorophenyl)acetate | 78.9 g | BrC(C(=O)OCC)C1=CC=C(C=C1)Cl | C10H10BrClO2
